US08314100B2
1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-cyanophenyl)piperazine (Compound 17)
Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate and 1-(2-cyanophenyl)piperazine were reacted by the same way with the example 1 to obtain the titled compound (yield, 85%). 1H NMR (200 MHz, CDCl3): δ 3.31 (s, 4H), 3.73-3.85 (m, 3H), 4.06-4.16 (m, 4H), 7.03-7.11 (m, 3H), 7.20-7.34 (m, 1H), 7.50-7.62 (m, 3H), 7.67-7.74 (m, 1H).

reactant | Ethyl N-(6-fluoro-2-methoxyquinoxalin-3-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(OCC)=O | C12H12FN3O3
reactant | 1-(2-cyanophenyl)piperazine | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
product | 1-[(6-Fluoro-2-methoxyquinoxalin-3-yl)aminocarbonyl]-4-(2-cyanophenyl)piperazine | 85% | FC=1C=C2N=C(C(=NC2=CC1)OC)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N | C21H19FN6O2
